US08314097B2
6-(5-Allyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile is prepared from 6-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile and allyl bromide by analogy to 19A above. MS (ESI) m/z 340 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm (HCl salt) 1.73-1.98 (m, 2 H), 2.02-2.16 (m, 1 H), 2.23-2.38 (m, 1 H), 2.54-2.65 (m, 1 H), 2.68-2.83 (m, 1 H), 2.86-3.02 (m, 1 H), 3.00-3.14 (m, 1 H), 5.11 (d, J=17.2 Hz, 1 H), 5.23 (d, J=10.1 Hz, 1 H), 5.44-5.69 (m, 1 H), 6.87 (d, J=7.3 Hz, 1 H), 6.92 (s, 1 H), 7.02-7.12 (m, 1 H), 7.13-7.22 (m, 1 H), 7.27-7.39 (m, 3 H), 7.45 (d, J=2.0 Hz, 1 H), 7.71 (dd, J=8.5, 1.9 Hz, 1 H), 8.31 (s, 1 H).

reactant | 6-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-5-yl)biphenyl-3-carbonitrile | C=1N=CN2C1CCCC2C2=CC=C(C=C2C2=CC=CC=C2)C#N | C20H17N3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 6-(5-Allyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-5-yl)biphenyl-3-carbonitrile | C(C=C)C1(CCCC=2N1C=NC2)C2=CC=C(C=C2C2=CC=CC=C2)C#N | C23H21N3
